US07910595B2
4-(4-Amino-phenylsulfanyl)-3-nitro-benzoic acid
A solution of 4-chloro-3-nitrobenzoic acid (2.00 g, 10.0 mmol), 4-aminothiophenol (10.0 mmol), and cesium carbonate (6.52 g, 20.0 mmol) in anhydrous N,N-dimethylformamide (10 mL) was heated at 90° C. under a nitrogen atmosphere for 2 hours. The reaction was cooled to room temperature and poured into 50 mL of ice water and ethyl acetate (100 mL). The mixture was stirred while adjusting the pH to 2 with concentrated hydrochloric acid. The layers were separated and the organic phase washed with water (2×50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated by rotary evaporation in vacuo. The residue was co-evaporated with methylene chloride/hexanes and the residue triturated with methylene chloride to provide the title compound as a dark yellow solid (2.115 g, 73%).

reactant | 4-chloro-3-nitrobenzoic acid | 10.0 mmol, 2.00 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-aminothiophenol | 10.0 mmol | NC1=CC=C(C=C1)S | C6H7NS
reactant | cesium carbonate | 20.0 mmol, 6.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Amino-phenylsulfanyl)-3-nitro-benzoic acid | 2.115 g, 73% | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H10N2O4S
